2119-09-27 07:50:00 Physician Resident Progress Note
Chief Complaint: 67F with h/o CHF admited yesterday in flash pulmonary
   edema requiring intubation.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2119-9-26**] 05:00 PM
 URINE CULTURE - At [**2119-9-26**] 08:41 PM
   Low UOP o/n requiring bolus
   Persistent nitro gtt requirement
   Increased oral antihypertensives
   Allergies:
   Morphine
   Unknown;
   Haldol (Oral) (Haloperidol Lactate)
   Parkinsonian [**Last Name (un) **]
   Last dose of Antibiotics:
   Infusions:
   Propofol - 50 mcg/Kg/min
   Nitroglycerin - 2.5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2119-9-27**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-9-27**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 66 (59 - 70) bpm
   BP: 147/63(84) {0/52(62) - 151/107(112)} mmHg
   RR: 34 (16 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                    539 mL
                                                                  1,088 mL
   PO:
             TF:
   IVF:
                                                                    299 mL
                                                                    638 mL
   Blood products:
   Total out:
                                                                    950 mL
                                                                    163 mL
   Urine:
                                                                    920 mL
                                                                    158 mL
   NG:
                                                                     30 mL
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                   -411 mL
                                                                    925 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 586 (586 - 586) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 9.2 L/min
   Physical Examination
   General: Intubated, sedated.
   HEENT: NCAT, intubated, OGT in place. Muddy, anicteric sclera.
   Neck: supple, no significant JVD or carotid bruits appreciated
   Pulmonary: Coarse mechanical BS anteriorly and laterally, no crackles
   or wheezes.
   Cardiac: RR, nl S1 S2, no murmurs, rubs or gallops appreciated
   Abdomen: Soft, moderately distended, no rebound or guarding. Hypoactive
   BS present.
   Extremities: No edema, 1+ DP pulses.
   Lymphatics: No cervical, supraclavicular, axillary or inguinal
   lymphadenopathy noted
   Skin: no rashes or lesions noted.
   Neurologic: Intubated, sedated. non-purposeful movements. Withdraws to
   painful stimuli. Does not respond to commands. Upgoing toes b/l.
   Labs / Radiology
   342 K/uL
   10.4 g/dL
   112 mg/dL
   1.3 mg/dL
   25 mEq/L
   3.2 mEq/L
   13 mg/dL
   102 mEq/L
   139 mEq/L
   32.2 %
   9.3 K/uL
        [image002.jpg]
                             [**2119-9-26**]  08:06 PM
                             [**2119-9-27**]  03:52 AM
   WBC
   9.3
   Hct
   32.2
   Plt
   342
   Cr
   1.3
   TropT
   0.01
   Glucose
   112
   Other labs: CK / CKMB / Troponin-T:65//0.01, Ca++:8.8 mg/dL, Mg++:1.5
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   <I>ASSESSMENT:</I>67F with history of diastolic CHF, COPD, HTN presents
   with acute SOB, hypoxic respiratory failure, hypertension and UTI.
   <I>PLAN:</I>
   <I>## Respiratory Failure:</I>Acute onset hypoxic respiratory failure.
   Given absence of fevers, sputum production or h/o cough, PNA unlikely,
   CXR does not show convincing infiltrate. Pt does have h/o PE, pulmonary
   artery systolic hypertension from [**6-22**] ECHO however CTA from same time
   negative for PE, currently pt not hypotensive, not tachycardic. Story
   most consistent with flash pulmonary edema in setting of known
   diastolic dysfunction.
   -afterload reduction with ACEI, titrating up captopril as tolerated,
   got 25mg this am
   -nitro gtt, wean off with goal SBP<140.  Will keep on while attempting
   to extubate, then trial of switch off in favor of long acting nitrate.
   -continue home CCB, amlodipine
   -hydral Q6 prn for SBP >140
   -unable to achieve arterial sampling for blood gases. Pt sating well on
   30% Fi02. Will attempt to wean to pressure support and extubate today
   as tolerated.
   <I>## Hypertension:</I>
   As above, goal SBP <140. Weaning down nitro gtt
   -ACEI
   -CCB
   -Hydral prn
   -once off nitro gtt can add back on home dose long acting nitrate
   -continue home BB
   -hold florinef, unclear if this is for adrenal insufficiency, only
   cortisol level >50 from [**2115**] will research OMR.
   <I>## UTI:</I>UA +, received levaquin and CTX in ed
   -sent u/a for culture
   -cipro daily until cx returned
   <I>## COPD:</I>No evidence one exam for COPD exacerbation. Per [**Name (NI) 4232**] pt
   has primarily restrictive defect and DLCO out of proportion to degree
   of COPD.  ? restrictive lung disease due to RA?  Severe CHF?
   -home albuterol PRN
   -advair once extubated
   -will not continue high dose steroids
   <I>## CHF:</I>As above, will tx with diuresis, BP control and afterload
   reduction.
   -daily weights
   -strict I/Os
   <I>## Pulmonary artery hypertension:</I>Severe per last TTE [**6-22**].  No
   evidence for PE on CTA done at same time.  ? etiology due to left heart
   failure vs pt's RA.  Consider repeat TTE after stabilized to evaluate
   interval change in [**Last Name (LF) 469**], [**First Name3 (LF) **] need RHC in future.
   <I>## DM:</I>DM2, diet controlled at home
   -RISS while in ICU
   <I>## Rheumatoid arthritis:</I>On enteracept QWeek.  Will continue
   sulfasalazine and plaquenil.
   <I>## CAD:</I> h/o NSTEMI in [**2115**] s/p DES, per OMR, no longer on
   plavix. 1st set CEs negative. ECG unchanged. No evidence ACS.
   -ruled out
   -continue statin, asa
   <I>## Hypercholesterolemia:</I>Continue statin
   <I>## Schizoaffective d/o:</I>Continue cymbalta and seroquel
   ICU Care
   Nutrition: NPO, adat once extubated.
   Glycemic Control:
   Lines:
   18 Gauge - [**2119-9-26**] 05:00 PM
   20 Gauge - [**2119-9-27**] 03:00 AM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: H2 blocker
   VAP:  chlorhexadine
   Comments:
   Communication:  Comments: Family, both HCP sister [**Name (NI) 1288**] and [**First Name8 (NamePattern2) **] [**First Name4 (NamePattern1) **]
   [**Last Name (NamePattern1) 66**] status: Full code
   Disposition:ICU until extubated

2119-09-28 08:05:00 Physician Resident Progress Note
Chief Complaint: 67F with CHF, lung disease admitted with malignant
   hypertension, flash pulmonary edema and hypoxic respiratory failure
   requiring intubation.
   24 Hour Events:
   Pt I/O even yesterday, given 1 dose lasix
   Failed weaning trial yesterday due to falling 02 sats during trial
   Abx coverage for UTI changed from cipro to CTX
   Isordil increased, nitro gtt weaned off
   Allergies:
   Morphine
   Unknown;
   Haldol (Oral) (Haloperidol Lactate)
   Parkinsonian [**Last Name (un) **]
   Last dose of Antibiotics:
   Ciprofloxacin - [**2119-9-27**] 08:00 PM
   Ceftriaxone - [**2119-9-27**] 10:00 PM
   Infusions:
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2119-9-28**] 12:00 AM
   Furosemide (Lasix) - [**2119-9-28**] 12:00 AM
   Lorazepam (Ativan) - [**2119-9-28**] 12:46 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: None
   Flowsheet Data as of  [**2119-9-28**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.2
C (97.2
   HR: 68 (65 - 79) bpm
   BP: 133/59(77) {103/45(60) - 165/78(92)} mmHg
   RR: 14 (14 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,869 mL
                                                                    435 mL
   PO:
             TF:
   IVF:
                                                                  1,729 mL
                                                                    285 mL
   Blood products:
   Total out:
                                                                  2,243 mL
                                                                  1,755 mL
   Urine:
                                                                  2,238 mL
                                                                  1,755 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                    626 mL
                                                                 -1,320 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 550) mL
   Vt (Spontaneous): 573 (372 - 590) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: 7.53/31/64/28/3
   Ve: 7.1 L/min
   PaO2 / FiO2: 128
   Physical Examination
   General: Intubated, sedated.
   HEENT: NCAT, intubated, OGT in place. Muddy, anicteric sclera.
   Neck: supple, no significant JVD or carotid bruits appreciated
   Pulmonary: Coarse mechanical BS anteriorly and laterally, no crackles
   or wheezes.
   Cardiac: RR, nl S1 S2, no murmurs, rubs or gallops appreciated
   Abdomen: Soft, moderately distended, no rebound or guarding. Hypoactive
   BS present.
   Extremities: No edema, 1+ DP pulses.
   Lymphatics: No cervical, supraclavicular, axillary or inguinal
   lymphadenopathy noted
   Skin: no rashes or lesions noted.
   Neurologic: Intubated, sedated. non-purposeful movements. Withdraws to
   painful stimuli. Does not respond to commands. Upgoing toes b/l.
   Labs / Radiology
   365 K/uL
   10.2 g/dL
   116 mg/dL
   1.2 mg/dL
   28 mEq/L
   3.8 mEq/L
   12 mg/dL
   109 mEq/L
   146 mEq/L
   31.3 %
   8.0 K/uL
        [image002.jpg]
                             [**2119-9-26**]  08:06 PM
                             [**2119-9-27**]  03:52 AM
                             [**2119-9-27**]  05:06 PM
                             [**2119-9-27**]  05:45 PM
                             [**2119-9-28**]  04:07 AM
   WBC
   9.3
   8.0
   Hct
   32.2
   31.3
   Plt
   342
   365
   Cr
   1.3
   1.3
   1.2
   TropT
   0.01
   TCO2
   27
   Glucose
   112
   116
   Other labs: CK / CKMB / Troponin-T:65//0.01, Ca++:8.8 mg/dL, Mg++:2.1
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   <I>ASSESSMENT:</I>67F with history of diastolic CHF, COPD, HTN presents
   with acute SOB, hypoxic respiratory failure, hypertension and UTI.
   <I>PLAN:</I>
   <I>## Respiratory Failure:</I>Acute onset hypoxic respiratory failure.
   Given absence of fevers, sputum production or h/o cough, PNA unlikely,
   CXR does not show convincing infiltrate. Pt does have h/o PE, pulmonary
   artery systolic hypertension from [**6-22**] ECHO however CTA from same time
   negative for PE, currently pt not hypotensive, not tachycardic. Story
   most consistent with flash pulmonary edema in setting of known
   diastolic dysfunction.
   -afterload reduction with ACEI, titrating up captopril as tolerated,
   now at 37.5 TID, transition to long acting when stable on oral BP
   regimen
   -Off nitro gtt, when BP stable on PO regimen, transition isordil to
   longer acting home nitrate.
   -continue home CCB, amlodipine
   -d/c hydral
   -ABG still with hypoxia, though improved since pt diuresed >1L
   overnight.  Repeat CXR today, continue to diurese as tolerated.
   Re-attempt vent wean today, have decreased Fi02, will try pressure
   support this afternoon.
   <I>## Hypertension:</I>
   As above, goal SBP <140.
   -ACEI
   -CCB
   -nitrate
   -continue home BB
   -hold florinef, unclear if this is for adrenal insufficiency, only
   cortisol level >50 from [**2115**] will research OMR.
   <I>## UTI:</I>UA +, received levaquin and CTX in ed
   -sent u/a for culture, growing GNRs, not speciated yet.
   -cipro switched to CTX as pt has h/o e. coli resistant to cipro,
   however repeat urine cx showed clearance of bacteria on cipro.  Will
   f/u sensis and plan to treat for 7 day course for complicated UTI,
   currently day [**4-21**]
   <I>## COPD:</I>No evidence one exam for COPD exacerbation. Per [**Name (NI) 4232**] pt
   has primarily restrictive defect and DLCO out of proportion to degree
   of COPD.  ? restrictive lung disease due to RA?  Severe CHF?
   -home albuterol PRN
   -advair once extubated
   -will not continue high dose steroids
   <I>## CHF:</I>As above, will tx with diuresis, BP control and afterload
   reduction.
   -daily weights
   -strict I/Os
   <I>## Pulmonary artery hypertension:</I>Severe per last TTE [**6-22**].  No
   evidence for PE on CTA done at same time.  ? etiology due to left heart
   failure vs pt's RA.  Consider repeat TTE after stabilized to evaluate
   interval change in [**Last Name (LF) 469**], [**First Name3 (LF) **] need RHC in future.
   <I>## DM:</I>DM2, diet controlled at home
   -RISS while in ICU
   <I>## Rheumatoid arthritis:</I>On enteracept QWeek.  Will continue
   sulfasalazine and plaquenil.  Need to touch base with family/PCP on
   which day of week pt takes enbrel.
   <I>## CAD:</I> h/o NSTEMI in [**2115**] s/p DES, per OMR, no longer on
   plavix. 1st set CEs negative. ECG unchanged. No evidence ACS.
   -ruled out
   -continue statin, asa
   <I>## Hypercholesterolemia:</I>Continue statin
   <I>## Schizoaffective d/o:</I>Continue cymbalta and seroquel
   <I>## Hypernatremia:</I>D5W while intubated, continue to monitor, free
   H20 PO once extubated. Continue diuresis as above.
   ICU Care
   Nutrition: NPO, adat once extubated. If fails extubation today, will
   start TF.
   Glycemic Control:  RISS
   Lines:
   18 Gauge - [**2119-9-26**] 05:00 PM
   20 Gauge - [**2119-9-27**] 03:00 AM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: H2 blocker
   VAP:  chlorhexadine
   Comments:
   Communication:  Comments: Family, both HCP sister [**Name (NI) 1288**] and [**First Name8 (NamePattern2) **] [**First Name4 (NamePattern1) **]
   [**Last Name (NamePattern1) 66**] status: Full code
   Disposition:ICU until extubated

2119-09-29 07:47:00 Physician Resident Progress Note
Chief Complaint:
   67F with dCHF, restrictive lung disease, COPD, RA p/w flash pulmonary
   edema necessitating intubation, UTI.
   24 Hour Events:
   Agitated, hypertensive yesterday prior to weaning, decision made to
   hold off extubation and continue diuresis/BP control. Successfully
   extubated this morning.
   Given add'l dose lasix, BPs dropped to 80s, rec'd 500cc bolus back,
   however overall very negative for the day.  Given zyprexa early in am
   today, back on hydral and nitro gtt for BP control during extubation to
   prevent recurrent flash pulmonary edema.
   Head CT in setting of ?AMS and +babinski b/l, prelim read negative.
   Allergies:
   Morphine
   Unknown;
   Haldol (Oral) (Haloperidol Lactate)
   Parkinsonian [**Last Name (un) **]
   Last dose of Antibiotics:
   Ciprofloxacin - [**2119-9-27**] 08:00 PM
   Ceftriaxone - [**2119-9-28**] 08:00 PM
   Infusions:
   Propofol - 50 mcg/Kg/min (d3)
   Nitroglycerin - 0.7 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2119-9-28**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2119-9-29**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-9-29**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.1
C (97
   HR: 75 (62 - 91) bpm
   BP: 185/66(100) {89/42(55) - 185/97(110)} mmHg
   RR: 16 (14 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,532 mL
                                                                  1,415 mL
   PO:
             TF:
   IVF:
                                                                  2,122 mL
                                                                    935 mL
   Blood products:
   Total out:
                                                                  4,660 mL
                                                                  1,077 mL
   Urine:
                                                                  4,660 mL
                                                                    927 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,128 mL
                                                                    338 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV
   Vt (Set): 500 (500 - 500) mL
   PS : 5 cmH2O
   RR (Set): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 95%
   ABG: 7.44/44/76.[**Numeric Identifier 128**]/26/4
   Ve: 6.8 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General: Intubated, sedated.
   HEENT: NCAT, intubated, OGT in place. Muddy, anicteric sclera.
   Neck: supple, no significant JVD or carotid bruits appreciated
   Pulmonary: Coarse mechanical BS anteriorly and laterally, no crackles
   or wheezes.
   Cardiac: RR, nl S1 S2, no murmurs, rubs or gallops appreciated
   Abdomen: Soft, moderately distended, no rebound or guarding. Hypoactive
   BS present.
   Extremities: No edema, 1+ DP pulses.
   Lymphatics: No cervical, supraclavicular, axillary or inguinal
   lymphadenopathy noted
   Skin: no rashes or lesions noted.
   Neurologic: Intubated, sedated. non-purposeful movements. Withdraws to
   painful stimuli. Does not respond to commands. Upgoing toes b/l.
   Labs / Radiology
   338 K/uL
   9.7 g/dL
   128 mg/dL
   1.1 mg/dL
   26 mEq/L
   2.8 mEq/L
   9 mg/dL
   108 mEq/L
   145 mEq/L
   31.0 %
   5.8 K/uL
        [image002.jpg]
                             [**2119-9-26**]  08:06 PM
                             [**2119-9-27**]  03:52 AM
                             [**2119-9-27**]  05:06 PM
                             [**2119-9-27**]  05:45 PM
                             [**2119-9-28**]  04:07 AM
                             [**2119-9-28**]  01:27 PM
                             [**2119-9-29**]  03:19 AM
                             [**2119-9-29**]  05:12 AM
   WBC
   9.3
   8.0
   5.8
   Hct
   32.2
   31.3
   31.0
   Plt
   342
   365
   338
   Cr
   1.3
   1.3
   1.2
   1.1
   TropT
   0.01
   TCO2
   27
   32
   31
   Glucose
   112
   116
   128
   Other labs: CK / CKMB / Troponin-T:65//0.01, Lactic Acid:1.0 mmol/L,
   Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Head CT [**9-28**]: Prelim read pending
   CXR [**2119-9-28**]:  Interval improvement in pulmonary edema
   Micro: [**9-26**] urine cx, >100,000 e. coli presumptive identification,
   sensitivities pending.
   Assessment and Plan
   <I>ASSESSMENT:</I>67F with history of diastolic CHF, COPD, HTN presents
   with acute SOB, hypoxic respiratory failure, hypertension and UTI.
   <I>PLAN:</I>
   <I>## Respiratory Failure:</I>Acute onset hypoxic respiratory failure.
   Given absence of fevers, sputum production or h/o cough, PNA unlikely,
   CXR does not show convincing infiltrate. Pt does have h/o PE, pulmonary
   artery systolic hypertension from [**6-22**] ECHO however CTA from same time
   negative for PE, currently pt not hypotensive, not tachycardic. Story
   most consistent with flash pulmonary edema in setting of known
   diastolic dysfunction.
   -afterload reduction with ACEI, titrating up captopril as tolerated,
   now at 37.5 TID, transition to long acting when stable on oral BP
   regimen
   -Off nitro gtt, when BP stable on PO regimen, transition isordil to
   longer acting home nitrate.
   -continue home CCB, amlodipine
   -d/c hydral
   -ABG still with hypoxia, though improved since pt diuresed >1L
   overnight.  Repeat CXR today, continue to diurese as tolerated.
   Re-attempt vent wean today, have decreased Fi02, will try pressure
   support this afternoon.
   **sedation?
   <I>## Hypertension:</I>
   As above, goal SBP <140.
   -ACEI
   -CCB
   -nitrate
   -continue home BB
   -hold florinef, unclear if this is for adrenal insufficiency, only
   cortisol level >50 from [**2115**] will research OMR.
   <I>## UTI:</I>UA +, received levaquin and CTX in ed
   -sent u/a for culture, growing GNRs, not speciated yet.
   -cipro switched to CTX as pt has h/o e. coli resistant to cipro,
   however repeat urine cx showed clearance of bacteria on cipro.  Will
   f/u sensis and plan to treat for 7 day course for complicated UTI,
   currently day [**4-21**]
   <I>## COPD:</I>No evidence one exam for COPD exacerbation. Per [**Name (NI) 4232**] pt
   has primarily restrictive defect and DLCO out of proportion to degree
   of COPD.  ? restrictive lung disease due to RA?  Severe CHF?
   -home albuterol PRN
   -advair once extubated
   -will not continue high dose steroids
   <I>## CHF:</I>As above, will tx with diuresis, BP control and afterload
   reduction.
   -daily weights
   -strict I/Os
   <I>## Pulmonary artery hypertension:</I>Severe per last TTE [**6-22**].  No
   evidence for PE on CTA done at same time.  ? etiology due to left heart
   failure vs pt's RA.  Consider repeat TTE after stabilized to evaluate
   interval change in [**Last Name (LF) 469**], [**First Name3 (LF) **] need RHC in future.
   <I>## DM:</I>DM2, diet controlled at home
   -RISS while in ICU
   <I>## Rheumatoid arthritis:</I>On enteracept QWeek.  Will continue
   sulfasalazine and plaquenil.  Need to touch base with family/PCP on
   which day of week pt takes enbrel.
   <I>## CAD:</I> h/o NSTEMI in [**2115**] s/p DES, per OMR, no longer on
   plavix. 1st set CEs negative. ECG unchanged. No evidence ACS.
   -ruled out
   -continue statin, asa
   <I>## Hypercholesterolemia:</I>Continue statin
   <I>## Schizoaffective d/o:</I>Continue cymbalta and seroquel
   <I>## Hypernatremia:</I>D5W while intubated, continue to monitor, free
   H20 PO once extubated. Continue diuresis as above.
   ICU Care
   Nutrition: NPO, adat once extubated. If fails extubation today, will
   start TF.
   Glycemic Control:  RISS
   Lines:
   18 Gauge - [**2119-9-26**] 05:00 PM
   20 Gauge - [**2119-9-27**] 03:00 AM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: H2 blocker
   VAP:  chlorhexadine
   Comments:
   Communication:  Comments: Family, both HCP sister [**Name (NI) 1288**] and [**First Name8 (NamePattern2) **] [**First Name4 (NamePattern1) **]
   [**Last Name (NamePattern1) 66**] status: Full code
   Disposition:ICU until extubated